US06797718B2
Solid palladium on carbon (0.5 g of 10%) was added to a Parr vessel and then wetted with isopropanol (1 mL). N-{2-[2-(4-Amino-7-hex-1-ynyl-2-propyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}methanesulfonamide (˜0.5 g) was added to the vessel followed by the addition of methanol (˜10 mL). The vessel was placed on a shaker and placed under hydrogen pressure (50 psi, 3.4×105 Pa). After 20 hours the reaction mixture was filtered through a layer of CELITE filter agent to remove the catalyst and the filter cake was washed with methanol (˜100 mL). The filtrate was concentrated under reduced pressure. The residue was purified by chromatography (silica gel eluting with 95:5 dichloromethane:methanol) to provide N-{2-[2-(4-amino-7-hexyl-2-propyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}methanesulfonamide as a clear oil.

reactant | isopropanol | 1 mL | C(C)(C)O | C3H8O
reactant | N-{2-[2-(4-Amino-7-hex-1-ynyl-2-propyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}methanesulfonamide | ˜0.5 g | NC1=NC=C(C2=C1N=C(N2CCOCCNS(=O)(=O)C)CCC)C#CCCCC | C20H31N5O3S
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | methanol | ˜10 mL | CO | CH4O
product | N-{2-[2-(4-amino-7-hexyl-2-propyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}methanesulfonamide | NC1=NC=C(C2=C1N=C(N2CCOCCNS(=O)(=O)C)CCC)CCCCCC | C20H35N5O3S
